US06939880B2
To a solution of (2S)-2-(((carboxy)methoxy)methyl)-pyrrolidin-1-carboxylic acid tert-butylester (1.2 g, 4.5 mmol) in dichloromethane (20 ml) were added 1-hydroxy-7-azabenzotriazole (612 mg, 4.5 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (950 mg, 4.95 mmol) and the mixture was stirred for 30 min. (2R)-N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide (605 mg, 1.5 mmol) in dichloromethane (10 mL) was added followed by diisopropylethylamine (0.33 ml, 2.0 mmol) and the mixture was stirred for 2 hours at room temperature. The mixture was washed with water (10 ml), aqueous sodium bicarbonate (10 ml), water (2×10 ml), brine (10 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (40 g) with ethyl acetate/heptane 4:1 to give 760 mg of (2S)-2-([N-methyl-N(1R)-1-(N-methyl-N-[(1R)-1-(methylcarbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl}carbamoyl]methoxymethyl)pyrrolidine-1-carboxylic acid tert-butylester. The obtained product was taken up in 50% trifluoroacetic acid in methylene chloride (5 ml) and stirred for 10 min. Then saturated sodium bicarbonate was added until pH 8 and the phases were separated. The aqueous phase was extracted with dichloromethane (2×10 ml) and the combined organic phases were washed with brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The product was redissolved in water (30 ml) and acetic acid (2 ml) was added and the mixture was liophilized to give 720 mg of the acetate salt of the title compound as an amorphous powder.

reactant | (2S)-2-(((carboxy)methoxy)methyl)-pyrrolidin-1-carboxylic acid tert-butylester | 4.5 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COCC(=O)O | C12H21NO5
reactant | 1-hydroxy-7-azabenzotriazole | 4.5 mmol, 612 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.95 mmol, 950 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (2R)-N-Methyl-2-methylamino-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)-3-(2-naphthyl)propionamide | 1.5 mmol, 605 mg | CN(C([C@@H](CC1=CC2=CC=CC=C2C=C1)NC)=O)[C@H](CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
reactant | diisopropylethylamine | 2.0 mmol, 0.33 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | pyrrolidine-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
